US07553969B1
(4) Synthesis of 3-methyl-2-methylaminobutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide
To a solution of 2-(N-benzyloxycarbonyl-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide (1.74 g, 3.10 mmol) in methanol (50 ml), 10% palladium carbon (300 mg) was added and stirred in a hydrogen atmosphere at room temperature overnight. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: methanol:aqueous ammonia:methylene chloride=5:0.1:100), giving the titled compound (1.30 g, 98%).

reactant | 2-(N-benzyloxycarbonyl-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide | 3.10 mmol, 1.74 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C(NC1=NC=CC=C1)=O)NC(C(C(C)C)N(C)C(=O)OCC1=CC=CC=C1)=O | C32H40N4O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | 3-methyl-2-methylaminobutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide | 1.30 g, 98% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C(NC1=NC=CC=C1)=O)NC(C(C(C)C)NC)=O | C24H34N4O3
